US07129238B2
To a solution of (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-3-hydroxy-phenyl)-2-methoxy-acetamide (370 mg) in 1,2-dichloroethane (10 ml) was added copper(II)acetate (222 mg), 4-fluorobenzoic acid (467 mg) and powdered MS4 Å (2 g). Et3N (563 mg) was added and the mixture was stirred 2 days at rt. The mixture was passed over silica gel eluting with AcOEt. CC (AcOEt/Hept 1:3 to 3:1) yielded 203 mg (61%) of (RS)-N-(4-cyano-benzyl)-2-[2,6-difluoro-3-(4-fluoro-phenoxy)-phenyl]-2-methoxy-acetamide. Yellow oil. MS 427.0 ([M+H]+).

reactant | (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-3-hydroxy-phenyl)-2-methoxy-acetamide | 370 mg | C(#N)C1=CC=C(CNC(C(OC)C2=C(C(=CC=C2F)O)F)=O)C=C1 | C17H14F2N2O3
reactant | 4-fluorobenzoic acid | 467 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | Et3N | 563 mg | CCN(CC)CC | C6H15N
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
catalyst | copper(II)acetate | 222 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (RS)-N-(4-cyano-benzyl)-2-[2,6-difluoro-3-(4-fluoro-phenoxy)-phenyl]-2-methoxy-acetamide | 203 mg, 61% | C(#N)C1=CC=C(CNC(C(OC)C2=C(C(=CC=C2F)OC2=CC=C(C=C2)F)F)=O)C=C1 | C23H17F3N2O3
